US06326510B1
(e) tert-Butyl 4-[3-(5,6,7,8-tetrahydro-5,5,8,8-tetramethyl-2-naphthyl)propynoyloxy]benzoate
In a similar manner to that of Example 1(d), by reaction of 1.4 g (5 mmol) of 3-(5,6,7,8-tetrahydro-5,5,8,8-tetramethyl-2-naphthyl)propynoyl chloride with 950 mg (4.9 mmol) of tert-butyl 4-hydroxybenzoate, 1.75 g (83%) of the expected tert-butyl ester are obtained in the form of a yellow oil.

reactant | 3-(5,6,7,8-tetrahydro-5,5,8,8-tetramethyl-2-naphthyl)propynoyl chloride | 5 mmol, 1.4 g | CC1(C=2C=CC(=CC2C(CC1)(C)C)C#CC(=O)Cl)C | C17H19ClO
reactant | tert-butyl 4-hydroxybenzoate | 4.9 mmol, 950 mg | OC1=CC=C(C(=O)OC(C)(C)C)C=C1 | C11H14O3
product | tert-Butyl 4-[3-(5,6,7,8-tetrahydro-5,5,8,8-tetramethyl-2-naphthyl)propynoyloxy]benzoate | CC1(C=2C=CC(=CC2C(CC1)(C)C)C#CC(=O)OC1=CC=C(C(=O)OC(C)(C)C)C=C1)C | C28H32O4
